US07786046B2
1.2) 2-(4-Fluoro-2-trifluoromethylbenzoylamino)but-3-enoic acid
At RT, 51.5 g (226 mmol) of periodic acid and 9.9 g (99 mmol) of CrO3 were dissolved in acetonitrile/water. Furthermore, 25 g (90.3 mmol) of 4-fluoro-N-(1-hydroxymethylallyl)-2-trifluoromethylbenzamide were dissolved in acetonitrile/water and the NalO4/CrO3 solution which had been prepared earlier was added dropwise at 0-5° C. over a period of 3 h. The mixture was then stirred at RT for 15 h. 400 ml of 6% strength Na2HPO4 solution were then added dropwise, toluene and ethyl acetate were added and the phases were separated. The aqueous phase was re-extracted with ethyl acetate. The combined organic phases were washed, dried and concentrated. This gave 24.1 g (92% of theory) of the title compound.

reactant | periodic acid | 226 mmol, 51.5 g | I(=O)(=O)(=O)O | HIO4
reactant | 4-fluoro-N-(1-hydroxymethylallyl)-2-trifluoromethylbenzamide | 90.3 mmol, 25 g | FC1=CC(=C(C(=O)NC(C=C)CO)C=C1)C(F)(F)F | C12H11F4NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile water | C(C)#N.O
product | 2-(4-Fluoro-2-trifluoromethylbenzoylamino)but-3-enoic acid | FC1=CC(=C(C(=O)NC(C(=O)O)C=C)C=C1)C(F)(F)F | C12H9F4NO3
